US07282501B2
Step A: 3-[5-Benzyloxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester
To a solution of 3-[5-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester (14.8 mmol) in DMF (100 mL) was added Cs2CO3 (29.6 mmol) and benzyl bromide (16.3 mmol). The reaction mixture was stirred overnight at ambient temperature and diluted with EtOAc (200 mL). The mixture was washed with brine (100 mL) and water (100 mL). The organic layer was dried (Na2SO4) and concentrated to a yellow oil (6.8 g). MS [ES] m/z 428 (M+H)+.

reactant | 3-[5-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 14.8 mmol | C(C)(C)(C)OC(CCC1=C(C=CC(=C1)O)CNC(=O)OC(C)C)=O | C18H27NO5
reactant | Cs2CO3 | 29.6 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 16.3 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-[5-Benzyloxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=CC(=C1)OCC1=CC=CC=C1)CNC(=O)OC(C)C)=O | C25H33NO5
